US06949574B2
4-Butoxy-benzoic acid:
(Scheme 1, Compound B) To a solution of ethyl 4-butoxybenzoate (2.0 g, 9.6 mmol) in EtOH (30 mL) was added NaOH (10 N, 6 mL, 60 mmol). The resulting mixture was stirred at room temperature for 3 hours, diluted with H2O (30 mL), acidified to about pH 1.0 using HCl (6N). The precipitates were filtered off by filter paper, washed by H2O and hexanes. This compound was obtained as a white solid. (1.63 g, 9.1 mmol, 94% yield). 1H NMR (DMSO-d6) δ 12.59 (br. s, 1H), 7.88 (d, 2H, J=9.5 Hz), 6.97 (d, 2H, J=9.5 Hz), 4.01 (t, 2H, J=6.5 Hz), 1.68 (m, 2H), 1.42 (m, 2H), 0.91 (t, 3H, J=6.5 Hz); 13C NMR (DMSO): 166.9, 162.2, 131.2, 122.7, 114.0, 67.3, 30.5, 18.6 and 13.5; Mass Spec.: 195.17 (MH+).

reactant | ethyl 4-butoxybenzoate | 9.6 mmol, 2.0 g | C(CCC)OC1=CC=C(C(=O)OCC)C=C1 | C13H18O3
reactant | NaOH | 60 mmol, 10 N, 6 mL | [OH-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | EtOH | 30 mL | CCO | C2H6O
solvent | H2O | 30 mL | O | H2O
product | 4-Butoxy-benzoic acid | 94% yield | C(CCC)OC1=CC=C(C(=O)O)C=C1 | C11H14O3
